US07582629B2
4-Chloro-2-[4-(difluoromethoxy)benzyl]-5-phenylisothiazol-3(2H)-one 1,1-dioxide
2-[4-(Difluoromethoxy)benzyl]-4-hydroxy-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.98 g, ca.60% purity, 1.80 mmol)) was dissolved in DCM (40 mL) and DMF (0.14 mL) was added. Under an atmosphere of nitrogen, oxalyl chloride (0.46 g 3.61 mmol) was dropped in. The mixture was then heated to reflux for 5 h and then evaporated to dryness. Water (20 mL) was added and the reaction mixture was extracted with DCM (20 mL×3). The extracts were combined and washed with water (50 mL×3) and brine (20 mL), dried (MgSO4) and evaporated. The residue was purified by column chromatography (ISOLUTE SI, 20 g/70 mL), eluting with DCM:heptane (30:70), to give the title compound (0.442 g, 62%) as a semi-solid; 1H NMR (400 MHz, CDCl3): δ 7.97 (d, 2H), 7.48-7.58 (m, 5H), 7.11 (d, 2H), 6.51 (t, 1H), 4.86 (s, 2H); 13C NMR (100 MHz, CDCl3): δ 155.8, 151.2, 143.5, 132.5, 130.8, 130.5, 129.4, 128.8, 127.2, 123.2, 119.5, 115.7 (t), 43.1.

reactant | 2-[4-(Difluoromethoxy)benzyl]-4-hydroxy-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 1.80 mmol, 0.98 g | FC(OC1=CC=C(CN2S(C(=C(C2=O)O)C2=CC=CC=C2)(=O)=O)C=C1)F | C17H13F2NO5S
reactant | DMF | 0.14 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 3.61 mmol, 0.46 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 4-Chloro-2-[4-(difluoromethoxy)benzyl]-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.442 g, 62% | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)CC1=CC=C(C=C1)OC(F)F)=O | C17H12ClF2NO4S
